US04456471
Preparation of 2-methyl-6-(1-hydroxy-1-methylethyl)-aniline
In this example a solution containing 381.46 g of methyl iodide in 500 ml of ethyl ether was added dropwise to 65.3 g of magnesium submerged in ethyl ether at room temperature and under nitrogen. The mixture was then cooled and then a solution containing 0.67 moles of 2-methyl-6-methoxycarbonylaniline in 500 ml of ethyl ether was dropwise added thereto. The mixture was then refluxed for 21/2 hours, then cooled and 750 ml of saturated aqueous ammonium chloride solution carefully added dropwise. Additional ammonium chloride solution was then added and the resulting mixture filtered through diatomaceous earth. The water layer in the filtrate was decanted from the ether layer and washed with ether. The ether washings were combined with the ether layers washed with water, dried and evaporated to dryness affording the title product.

reactant | methyl iodide | 381.46 g | CI | CH3I
reactant | magnesium | 65.3 g | [Mg] | Mg
reactant | 2-methyl-6-methoxycarbonylaniline | 0.67 moles | CC1=C(N)C(=CC=C1)C(=O)OC | C9H11NO2
reactant | ammonium chloride | 750 ml | [Cl-].[NH4+]
reactant | ethyl ether | 500 ml | C(C)OCC | C4H10O
reactant | ethyl ether | 500 ml | C(C)OCC | C4H10O
product | 2-methyl-6-(1-hydroxy-1-methylethyl)-aniline | CC1=C(N)C(=CC=C1)C(C)(C)O | C10H15NO
